US06730684B1
a) 2-[2-(4-Methoxyphenyl)ethenyl]nicotinic Acid
A mixture of NaH (60% dispersion in mineral oil, 7.4 g, 0.185 mole), tert-butanol (11.12 g, 0.15 mole), and anhydrous DMF (100 mL) was carefully warmed at 80° C. until gas evolution ceased, then was cooled to 0° C. under argon. A solution of ethyl 2-methylnicotinate (7.7 mL, 0.050 mole) in anhydrous DMF (17 mL) was added dropwise over 3 min, and the reddish-orange mixture was stirred at 0° C. for 1 hr. A solution of para-anisaldehyde (7.3 mL, 0.060 mL) in anhydrous DMF (17 mL) was added dropwise over 3 min, and the reaction was allowed to warm to RT. The mixture was stirred overnight, then was poured into ice water (200 mL), and the solution was acidified to pH 6 with glacial acetic acid. The volume was adjusted to 1 L with H2O, the flask was scratched with a glass rod, and the mixture was allowed to stand at RT for several hr, then in the refrigerator overnight. The solid was collected by suction filtration and washed with H2O. Recrystallization from boiling absolute EtOH gave the title compound (5.31 g, 42%, two crops) as yellow needles: 1H NMR (250 MHz, DMSO-d6) δ 8.70 (dd, J=4.6, 1.7 Hz, 1H), 8.18 (dd, J=7.9, 1.7 Hz, 1H), 7.95 (d, J=15.8 Hz, 1H), 7.83 (d, J=15.8 Hz, 1H), 7.57 (d, J=8.7 Hz, 2H), 7.34 (dd, J=7.9, 4.6 Hz, 1H), 6.99 (d, J=8.7 Hz, 2H), 3.79 (s, 3H); MS (ES) m/e 256 (M+H)+.

reactant | NaH | 0.185 mole, 7.4 g | [H-].[Na+]
reactant | tert-butanol | 0.15 mole, 11.12 g | C(C)(C)(C)O | C4H10O
reactant | ethyl 2-methylnicotinate | 0.050 mole, 7.7 mL | CC1=C(C(=O)OCC)C=CC=N1 | C9H11NO2
reactant | para-anisaldehyde | 7.3 mL | C(C1=CC=C(C=C1)OC)=O | C8H8O2
solvent | DMF | 17 mL | CN(C)C=O | C3H7NO
solvent | DMF | 17 mL | CN(C)C=O | C3H7NO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-[2-(4-Methoxyphenyl)ethenyl]nicotinic Acid | 5.31 g, 42% | COC1=CC=C(C=C1)C=CC1=C(C(=O)O)C=CC=N1 | C15H13NO3
